US04303649
A mixture of phenylacetylglycine (10.0 g.), N-methyl morpholine (5.78 ml.) and chloroform (60 ml.) was stirred for 5 minutes. After cooling to -23° C., ethyl chloroformate (4.7 ml.) was added rapidly to the mixture during 1 minute, whereupon the temperture of the mixture rose to -15° C. After stirring for 1 minute, 1,2-diamino-2-methyl-propane (5.4 ml.) was added rapidly to the reaction mixture and the temperature was allowed to rise to room-temperature. After 1 hour at room temperature, the reaction mixture was poured into water (50 ml.) and the organic layer discarded. The aqueous layer was basified with excess potassium carbonate, and extracted with chloroform (4×100 ml.). The combined extracts were dried (MgSO4) and evaporated. Trituration and filtration of the solid residue with ether gave N1 -(2-amino-2-methylpropyl)-N2 -phenylacetylglycinamide as a solid (8.8 g.), m.p. 150°-155° C.

reactant | phenylacetylglycine | 10.0 g | C1(=CC=CC=C1)CC(=O)NCC(=O)O | C10H11NO3
reactant | N-methyl morpholine | 5.78 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 4.7 ml | ClC(=O)OCC | C3H5ClO2
reactant | 1,2-diamino-2-methyl-propane | 5.4 ml | NCC(C)(C)N | C4H12N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | N1 -(2-amino-2-methylpropyl)-N2 -phenylacetylglycinamide | NC(CNC(CNC(CC1=CC=CC=C1)=O)=O)(C)C | C14H21N3O2
